US05248810
Benzyl 7-oxooctanoate was prepared by benzylation of 7-oxooctanoic acid with benzyl bromide and potassium carbonate in dimethyl formamide.

reactant | 7-oxooctanoic acid | O=C(CCCCCC(=O)O)C | C8H14O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | Benzyl 7-oxooctanoate | O=C(CCCCCC(=O)OCC1=CC=CC=C1)C | C15H20O3
